US06451821B1
2.24 g of lithium chloride are added with stirring to a solution of 16 g of ethyl (2R)-5-{[(benzyloxy)carbonyl]amino}-2-(3-tert-butyl-thioureido)pentanoate in 200 cm3 of ethanol and 100 cm3 of tetrahydrofuran. After stirring for 15 minutes at a temperature in the region of 0° C., 2.24 g of sodium borohydride are added. After stirring for 20 hours at a temperature in the region of 20° C., a further 0.5 g of sodium borohydride is added. The reaction medium is filtered and the filtrates are concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. The residue is chromatographed at atmospheric pressure on a column of silica gel (particle size 60-200μ; diameter 5.6 cm; height 40 cm), eluting with a mixture of dichloromethane/ethyl acetate (8/2 by volume) and a mixture of dichloromethane/ethyl acetate (6/4 by volume). The fractions containing the expected product are combined and then concentrated under the above conditions. 9.6 g of benzyl N-[(4R)-4-(3-tert-butylthioureido)-5-hydroxypentyl]carbamate are obtained in the form of a yellow oil [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): from 1.30 to 1.60 (mt: 4H); 1.42 (s: 9H); 3.00 (mt: 2H); from 3.25 to 3.40 (mt: 1H); 3.45 (mt: 1H); 4.21 (unresolved complex: 1H); 4.76 (unresolved complex: 1H); 5.02 (s: 2H); 7.09 (d, J=8.5 Hz: 1H); 7.17 (broad s: 1H); 7.27 (t, J=5.5 Hz: 1H); from 7.30 to 7.45 (mt: 5H)]

reactant | lithium chloride | 2.24 g | [Cl-].[Li+]
reactant | ethyl (2R)-5-{[(benzyloxy)carbonyl]amino}-2-(3-tert-butyl-thioureido)pentanoate | 16 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](C(=O)OCC)NC(=S)NC(C)(C)C | C20H31N3O4S
reactant | sodium borohydride | 2.24 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
product | benzyl N-[(4R)-4-(3-tert-butylthioureido)-5-hydroxypentyl]carbamate | 9.6 g | C(C)(C)(C)NC(N[C@H](CCCNC(OCC1=CC=CC=C1)=O)CO)=S | C18H29N3O3S
